US20010047031A1
(RS)-4-[3-(4-Hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-1-phenyl-butan-2-one (200 mg, 0.6 mmol) in MeOH (3 ml) was treated with NaBH4 (33.2 mg, 0.9 mmol). After 15 minutes stirring at room temperature, the reaction mixture was acidified to pH 3 with 1N HCl then adjusted to pH 8 with saturated NaHCO3. The aqueous phase was extracted with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered and the solvent was evaporated. The residue was chromatographed over silica gel (ethylacetate) to provide (3RS, 3RS) and (3RS, 3SR)-4-[1-(3-hydroxy-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol (187 mg, 93%) as a white foam, MS: m/e=344.3 (M+H+).

reactant | (RS)-4-[3-(4-Hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-1-phenyl-butan-2-one | 0.6 mmol, 200 mg | OC1=CC=C(C=C1)SC1CN(CC1)CCC(CC1=CC=CC=C1)=O | C20H23NO2S
reactant | NaBH4 | 0.9 mmol, 33.2 mg | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | (3RS, 3SR)-4-[1-(3-hydroxy-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol | 187 mg, 93% | OC(CCN1CC(CC1)SC1=CC=C(C=C1)O)CC1=CC=CC=C1 | C20H25NO2S
